US06002002
N-phenyl-N'-(2-hydroxy-3-piperidino-propoxy)-urea
O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine (1,74 g, 0,01 mol) was dissolved in 40 ml chloroform and 1,09 ml (0,01 mol) phenyl isocyanate was added thereto while stirring. The reaction was monitored by chromatography. After the end of reaction the solution was evaporated and the oily residue was purified by column chromatography. The oil thus obtained was crystallized from diethyl ether. Yield: 0,6 g (20%). Mp: 101-103° C.

reactant | O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine | 0,01 mol, 1,74 g | OC(CON)CN1CCCCC1 | C8H18N2O2
reactant | phenyl isocyanate | 0,01 mol, 1,09 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N-phenyl-N'-(2-hydroxy-3-piperidino-propoxy)-urea | C1(=CC=CC=C1)NC(=O)NOCC(CN1CCCCC1)O | C15H23N3O3
